US03965100
1,2,3,10-Tetrahydro-10-oxocyclopenta[d]pyrido[1,2-a]pyrimidine-5-carboxylic acid
A mixture of 5.0 g of 2-aminonicotinic acid, 0.4 g. p-toluenesulfonic acid, and 25 ml of ethyl cyclopentanone-2-carboxylate is stirred magnetically and immersed in an oil bath preheated to 125°. The temperature of the oil bath is gradually raised and reaches 170° in 23 minutes. A clear solution occurs in 55 minutes when the oil bath temperature reaches 178° and 4.0 ml of distillate is collected in a Dean-Stark trap. The product crystallizes from the cooled reaction mixture. The filtered, air-dried product weighs 6.2 g., m.p. 187°-192°. Recrystallization from 100 ml of toluene gives 4.91 g of product, m.p. 189°-193°.

reactant | 2-aminonicotinic acid | 5.0 g | NC1=C(C(=O)O)C=CC=N1 | C6H6N2O2
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | ethyl cyclopentanone-2-carboxylate | 25 ml | CCOC(=O)C1CCCC1=O | C8H12O3
product | 1,2,3,10-Tetrahydro-10-oxocyclopenta[d]pyrido[1,2-a]pyrimidine-5-carboxylic acid | 4.91 g | O=C1C2=C(N=C3N1C=CC=C3C(=O)O)CCC2 | C12H10N2O3
